US08609866B2
Preparation of (Z)-hexyl amino-(4-((1-(4-fluorophenyl)-2,5-dimethyl-pyrrole-3-carbonylamino)methyl)phenyl)methylenecarbamate
48 mg of N-[(4-carbamimidoylphenyl)methyl]-1-(4-fluorophenyl)-2,5-dimethyl-pyrrole-3-carboxamide hydrochloride and 50 mg of potassium carbonate were dissolved in 0.6 ml of water and 3 ml of tetrahydrofuran. The mixture was stirred at room temperature, and 0.019 ml of n-hexyl chloroformate (Sigma-Aldrich) added. Stirring was continued for 1 h, following which the organic layer is removed, and dried in vacuo to obtain the synthetic target (>90% yield). The mass of the compound was verified using LC/MS/MS.

reactant | N-[(4-carbamimidoylphenyl)methyl]-1-(4-fluorophenyl)-2,5-dimethyl-pyrrole-3-carboxamide hydrochloride | 48 mg | Cl.C(N)(=N)C1=CC=C(C=C1)CNC(=O)C1=C(N(C(=C1)C)C1=CC=C(C=C1)F)C
reactant | potassium carbonate | 50 mg | C([O-])([O-])=O.[K+].[K+]
reactant | n-hexyl chloroformate | 0.019 ml | ClC(=O)OCCCCCC | C7H13ClO2
solvent | water | 0.6 ml | O | H2O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (Z)-hexyl amino-(4-((1-(4-fluorophenyl)-2,5-dimethyl-pyrrole-3-carbonylamino)methyl)phenyl)methylenecarbamate | >90% yield | N\C(\C1=CC=C(C=C1)CNC(=O)C1=C(N(C(=C1)C)C1=CC=C(C=C1)F)C)=N/C(OCCCCCC)=O | C28H33FN4O3
